US05141841
The following syntheses are typical Preparation of 3-methyl-2-(4'-trichloromethylbenzoyl methylene)-benzothiazoline (Formula I)
2,3-dimethylbenzothiazolinium-p-toluene sulphonate (10 g) was slurried in dry toluene (50 ml) and cooled to 5 degC. A solution of 4-trichloromethylbenzoyl chloride (8.9 g) in dry toluene (10 ml) was added dropwise to the stirred slurry over a period of 30 minutes, maintaining the temperature at 10-15 degC. A solution of triethylamine (7 ml) in dry toluene (10 ml) was then added dropwise over a period of 30 minutes, the temperature again being maintained at 10-15 degC. The reaction mixture was stirred for two hours at room temperature. The solid product was filtered off, reslurried in methanol and recrystallised from a 3/1 chloroform/methanol solution.

reactant | 2,3-dimethylbenzothiazolinium-p-toluene sulphonate | 10 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.CC=1SC2=C([N+]1C)C=CC=C2
reactant | 4-trichloromethylbenzoyl chloride | 8.9 g | ClC(C1=CC=C(C(=O)Cl)C=C1)(Cl)Cl | C8H4Cl4O
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-methyl-2-(4'-trichloromethylbenzoyl methylene)-benzothiazoline | CN1C(SC2=C1C=CC=C2)=CC(C2=CC=C(C=C2)C(Cl)(Cl)Cl)=O | C17H12Cl3NOS
